US07342115B2
A mixture of 6-(2,6-diethyl-phenyl)-4-ethyl-nicotinic acid methyl ester N-oxide (1.7 g) and POCl3 (10 mL) is heated at 80° C. for 2 hours. The volatile material is removed in vacuo. Ice water and ether is added to the residue. The organic layer is separated and the aqueous layer is extracted with ether. The combined extract is washed with brine, dried, and concentrated to give 2-chloro-6-(2,6-diethyl-phenyl)-4-ethyl-nicotinic acid methyl ester. 1H NMR (CDCl3) 7.26 (t, 1H), 7.12 (d, 3H), 4.02 (s, 3H), 2.69 (q, 2H), 2.32 (m, 4H), 1.25 (t, 3H), 1.07 (t, 6H).

reactant | 6-(2,6-diethyl-phenyl)-4-ethyl-nicotinic acid methyl ester N-oxide | 1.7 g | COC(C1=C[N+](=C(C=C1CC)C1=C(C=CC=C1CC)CC)[O-])=O | C19H23NO3
reactant | POCl3 | 10 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-6-(2,6-diethyl-phenyl)-4-ethyl-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1CC)C1=C(C=CC=C1CC)CC)Cl)=O | C19H22ClNO2
